* Z:\mnt\design.r\spice\examples\1186F.asc
Q1 N005 N007 N010 0 NP
Q2 N006 N008 N010 0 NP
L1 N005 N003 20µ
L2 N003 N006 20µ
C1 N006 N005 .068µ
L3 N008 N007 1µ
V1 N004 0 28
L4 N001 N002 50m
R1 N002 N001 70K
L5 N010 N012 100µ
D1 N012 N004 1N5818
R2 N003 N009 220K
R3 N009 N010 100K
C3 N003 N009 1000p
D2 0 N012 1N5818
C4 N015 0 1µ
V2 N011 0 5
R5 N004 N008 500
R6 N002 0 1G
XU1 0 N013 0 N015 0 N014 N016 N018 N019 N017 N013 N011 N003 N004 N009 N012 LT1186F
V3 N018 0 PWL(0.999m 3 1.001m 0 1.089m 0 1.091m 3)
V4 N016 0 PWL(0 0 1.004m 0 1.006m 3 1.009m 3 1.011m 0 1.014m 0 1.016m 3 1.019m 3 1.021m 0 1.024m 0 1.026m 3 1.029m 3 1.031m 0 1.034m 0 1.036m 3 1.039m 3 1.041m 0 1.044m 0 1.046m 3 1.049m 3 1.051m 0 1.054m 0 1.056m 3 1.059m 3 1.061m 0 1.064m 0 1.066m 3 1.069m 3 1.071m 0 1.074m 0 1.076m 3 1.079m 3 1.081m 0)
V5 N019 0 PWL(1.001m 0 1.009m 0 1.011m 3 1.019m 3 1.021m 3 1.029m 3 1.031m 0 1.039m 0 1.041m 0 1.049m 0 1.051m 0 1.059m 0 1.061m 3 1.069m 3 1.071m 3 1.079m 3)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 15m
K1 L1 L2 L3 L4 1
* BAT
.model NP NPN
.lib LT1186F.sub
.backanno
.end
